US04940710
A 31.4 g portion of selenium dioxide was added to a solution of 75 ml of dioxane and 10 ml of water and warmed to 60° C. with stirring. A 50 g portion of 2-acetyl-2,5-dichlorothiophene was added and the mixture was stirred at reflux for 7 hours. The mixture was diluted with dioxane, filtered and evaporated to dryness. Ether was added, then heptane and the mixture refrigerated. The solid was collected, giving 30.1 g of 2,5-dichloro-α-oxo-3-thiopheneacetaldehyde.

reactant | selenium dioxide | [Se](=O)=O | O2Se
reactant | water | 10 ml | O | H2O
reactant | 2-acetyl-2,5-dichlorothiophene | C(C)(=O)C1(SC(=CC1)Cl)Cl | C6H6Cl2OS
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 2,5-dichloro-α-oxo-3-thiopheneacetaldehyde | 30.1 g | ClC=1SC(=CC1C(C=O)=O)Cl | C6H2Cl2O2S
